US06635657B1
Preparation of N-(5-Chloropyridin-2-yl)-5-formyl-2-[(1-isopropylpiperidin-4-ylcarbonyl)amino]benzamide Hydrochloride
To a stirring solution of N-(5-chloropyridin-2-yl)-5-iodo-2-[(1-isopropylpiperidin-4-ylcarbonyl)amino]benzamide (0.51 g, 0.97 mmol) in N,N-dimethylformamide (10 mL) was added sodium formate (0.11 g, 1.6 mmol), calcium sulfate (0.39 g, 2.9 mmol), triphenylphosphine (6 mg, 0.02 mmol) and dichlorobis(triphenylphosphine)palladium(II) (15 mg, 0.02 mmol). The reaction mixture was heated to 80° C., stirred overnight, cooled to room temperature, partitioned between dichloromethane and saturated aqueous sodium bicarbonate, and the layers separated. The organic phase was filtered to remove solids, dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude product was purified by RPHPLC, eluting with a gradient of 10% through 50% acetonitrile in 0.05% aqueous hydrochloric acid, to give 0.14 g (31%) of a yellow solid.

reactant | N-(5-chloropyridin-2-yl)-5-iodo-2-[(1-isopropylpiperidin-4-ylcarbonyl)amino]benzamide | 0.97 mmol, 0.51 g | ClC=1C=CC(=NC1)NC(C1=C(C=CC(=C1)I)NC(=O)C1CCN(CC1)C(C)C)=O | C21H24ClIN4O2
reactant | sodium formate | 1.6 mmol, 0.11 g | C(=O)[O-].[Na+]
reactant | calcium sulfate | 2.9 mmol, 0.39 g | S(=O)(=O)([O-])[O-].[Ca+2]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.02 mmol, 15 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | triphenylphosphine | 0.02 mmol, 6 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | N-(5-Chloropyridin-2-yl)-5-formyl-2-[(1-isopropylpiperidin-4-ylcarbonyl)amino]benzamide Hydrochloride | 0.14 g, 31% | Cl.ClC=1C=CC(=NC1)NC(C1=C(C=CC(=C1)C=O)NC(=O)C1CCN(CC1)C(C)C)=O | InChI=1S/C22H25ClN4O3.ClH/c1-14(2)27-9-7-16(8-10-27)21(29)25-19-5-3-15(13-28)11-18(19)22(30)26-20-6-4-17(23)12-24-20;/h3-6,11-14,16H,7-10H2,1-2H3,(H,25,29)(H,24,26,30);1H
